US08633207B2
To a solution of 2-(difluoro(5-fluoropyridin-2-yl)methyl)-7-methyl-4-(methylthio)quinazoline (152 mg, 0.454 mmol) in DCM (3 mL) at 0° C. was added 70% meta-chloroperoxybenzoic acid (168 mg, 0.681 mmol), and the mixture was stirred for 40 min at 0° C. DCM (15 mL) was added and the mixture was washed with saturated aq NaHCO3 (20 mL) and saturated aq sodium thiosulfate (20 mL), dried over Na2SO4, and concentrated under reduced pressure. To the residue (154 mg) was added 5-methyl-1H-pyrazol-3-amine (132 mg, 1.36 mmol) in THF (4 mL), and the mixture was stirred at rt overnight and then concentrated under reduced pressure. The residue was purified by reverse phase HPLC (Varian Diphenyl reverse phase column, eluting with a gradient of solvent B=0.05% HOAc/ACN and solvent A=0.05% HOAc/5% ACN/H2O) to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-7-methyl-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-amine (62.3 mg, 36%). 1H NMR (300 MHz, DMSO-d6) δ 12.08-12.20 (m, 1H), 10.53-10.66 (m, 1H), 8.66 (s, 1H), 8.57 (d, J=8.7 Hz, 1H), 7.93-8.03 (m, 2H), 7.66 (s, 1H), 7.48 (d, J=7.5 Hz, 1H), 5.99 (s, 1H), 2.51 (s, 4H), 2.18 (s, 3H). LCMS (ESI) m/z 386 (M+H)+.

reactant | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-7-methyl-4-(methylthio)quinazoline | 0.454 mmol, 152 mg | FC(C1=NC2=CC(=CC=C2C(=N1)SC)C)(C1=NC=C(C=C1)F)F | C16H12F3N3S
reactant | meta-chloroperoxybenzoic acid | 0.681 mmol, 168 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-methyl-1H-pyrazol-3-amine | 1.36 mmol, 132 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-7-methyl-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-amine | 62.3 mg, 36% | FC(C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)C)(C1=NC=C(C=C1)F)F | C19H15F3N6
